US04822787
A solution of methanesulfonyl chloride (0.4 ml) in tetrahydrofuran (2 ml) was dropwise added to a solution of (2S,4R)-2-(1-carboxy-1-methylethyl)oxymethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.84 g) and triethylamine (1 ml) in tetrahydrofuran (8 ml) at -10°-5° C. and the mixture was stirred at the same condition for 30 minutes. The mixture was dropwise added to a 10% solution (20 ml) of ammonia in ethanol and the mixture was stirred at the same temperature for 1 hour. The mixture was concentrated under reduced pressure to give a residue. The residue was dissolved in ethyl acetate (50 ml), washed with water (50 ml), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (1:99 V/V) to give (2S,4R)-2-(1-carbamoyl-1-methylethyl)oxymethyl-4-methanesulfonyloxy-1-(4 -nitrobenzyloxycarbonyl)pyrrolidine (1.01 g).

reactant | methanesulfonyl chloride | 0.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2S,4R)-2-(1-carboxy-1-methylethyl)oxymethyl-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.84 g | C(=O)(O)C(C)(C)OC[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H22N2O8
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-2-(1-carbamoyl-1-methylethyl)oxymethyl-4-methanesulfonyloxy-1-(4 -nitrobenzyloxycarbonyl)pyrrolidine | 1.01 g | C(N)(=O)C(C)(C)OC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C18H25N3O9S
